US07411072B2
5-Bromo-1,3-dihydro-benzoimidazol-2-one
Add phenyl chloroformate (922 mg, 5.89 mmol) to a suspension of 4-bromo-benzene-1,2-diamine (1.00 g, 5.35 mmol) and NaHCO3 (483 mg, 5.89 mmol) in methanol (20 mL) and H2O (10 mL). Stir at room temperature for 3.5 h and add 1.00N aqueous NaOH (6 mL, 6.00 mmol). Stir overnight at room temperature and filter. Wash the filter cake with H2O and dry in-vacuo overnight to obtain 386 mg (34%) of the title compound as a brown powder. MS (ES) 213,215 (M+H), 211,213 (M−H); HPLC shows 95% purity.

reactant | phenyl chloroformate | 5.89 mmol, 922 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-bromo-benzene-1,2-diamine | 5.35 mmol, 1.00 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | NaHCO3 | 5.89 mmol, 483 mg | C(=O)(O)[O-].[Na+]
reactant | NaOH | 6.00 mmol, 1.00N, 6 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | H2O | 10 mL | O | H2O
product | 5-Bromo-1,3-dihydro-benzoimidazol-2-one | 386 mg, 34% | BrC1=CC2=C(NC(N2)=O)C=C1 | C7H5BrN2O
